US03994941
In the manner given in Example 21, a solution of 8-fluoro-6-phenyl-1-(2-phthalimidoethyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine in ethanol is heated with hydrazine hydrate to give 1-(2-aminoethyl)-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-fluoro-6-phenyl-1-(2-phthalimidoethyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | C26H18FN5O2
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-aminoethyl)-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NCCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)F | C18H16FN5
